### PR TITLE
[Merged by Bors] - feat(RingTheory/AdicCompletion): functoriality

### PR DESCRIPTION
**Pull request by chrisflav**
Adds functoriality of adic completions.

---

- [x] depends on: #12516
- [x] depends on: #12553 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 1]
```diff
@@ -0,0 +1,358 @@
...
+
+@[simp]
+private theorem reduceModIdealAux_apply (f : M →ₗ[R] N) (x : M) :
+    (f.reduceModIdealAux I) (Submodule.Quotient.mk (p := (I • ⊤ : Submodule R M)) x) =
+      Submodule.Quotient.mk (p := (I • ⊤ : Submodule R N)) (f x) :=
+  rfl
+
+/-- The induced linear map on the quotients mod `I • ⊤`. -/
+def reduceModIdeal (f : M →ₗ[R] N) :
+    M ⧸ (I • ⊤ : Submodule R M) →ₗ[R ⧸ (I • ⊤ : Ideal R)] N ⧸ (I • ⊤ : Submodule R N) where
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:55]: Why `R ⧸ (I • ⊤ : Ideal R)` instead of `R ⧸ I`?

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 2]
```diff
@@ -0,0 +1,358 @@
...
+theorem reduceModIdeal_apply (f : M →ₗ[R] N) (x : M) :
+    (f.reduceModIdeal I) (Submodule.Quotient.mk (p := (I • ⊤ : Submodule R M)) x) =
+      Submodule.Quotient.mk (p := (I • ⊤ : Submodule R N)) (f x) :=
+  rfl
+
+open AdicCompletion
+
+/-- A linear map induces a linear map on adic cauchy sequences. -/
+@[simps]
+def adicCauchy (f : M →ₗ[R] N) : AdicCauchySequence I M →ₗ[R] AdicCauchySequence I N where
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:76]: I think this should be called `AdicCauchySequence.map`?

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 3]
```diff
@@ -0,0 +1,358 @@
...
+    (fun {m n} hmn ↦ by rw [← comp_assoc, AdicCompletion.transitionMap_comp_reduceModIdeal,
+        comp_assoc, transitionMap_comp_eval])
+
+@[simp]
+theorem adicCompletionAux_val_apply (f : M →ₗ[R] N) {n : ℕ} (x : AdicCompletion I M) :
+    (f.adicCompletionAux I x).val n = f.reduceModIdeal (I ^ n) (x.val n) :=
+  rfl
+
+/-- A linear map induces a map on adic completions. -/
+def adicCompletion (f : M →ₗ[R] N) :
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:118]: Similar for this.

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 4]
```diff
@@ -0,0 +1,358 @@
...
+    simp only [adicCompletionAux_val_apply, smul_eval, LinearMapClass.map_smul, RingHom.id_apply]
+
+@[simp]
+theorem adicCompletion_val_apply (f : M →ₗ[R] N) {n : ℕ} (x : AdicCompletion I M) :
+    (f.adicCompletion I x).val n = f.reduceModIdeal (I ^ n) (x.val n) :=
+  rfl
+
+/-- Equality of linear maps out of an adic completion can be checked on Cauchy sequences. -/
+@[ext]
+theorem AdicCompletion.ext {f g : AdicCompletion I M → N}
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:133]: Is this intended to be called `LinearMap.AdicCompletion.ext`?

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 5]
```diff
@@ -0,0 +1,358 @@
...
+    f = g := by
+  ext x
+  apply induction_on I M x (fun a ↦ h a)
+
+theorem AdicCompletion.ext' {f g : AdicCompletion I M →ₗ[R] N}
+    (h : ∀ (a : AdicCauchySequence I M),
+      f (AdicCompletion.mk I M a) = g (AdicCompletion.mk I M a)) :
+    f = g := by
+  ext x
+  apply induction_on I M x (fun a ↦ h a)
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:145]: Is `AdicCompletion.mk` a linearMap? If so, maybe `(h : f.comp (AdicCompletion.mk I M a) = _)` instead.  See note [partially-applied ext lemmas]

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean]: I changed it to `AdicCompletion.map_ext`

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean (hunk 5 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean]: Yes it is, I changed it. For the `map_ext''' version, I left it as is for now, because I did not see a way without asking more conditions on `T`. If this is desirable, let me know.

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean]: Because I thought it is more convenient to work with, because of the definition of `AdicCompletion I R`. Turns out, it's also doable with the canonical spelling, so I changed it.

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 6]
```diff
@@ -0,0 +1,352 @@
...
+  apply sum_lof
+
+variable [Fintype ι]
+
+/-- If `ι` is finite, we use the equivalence of sum and product to obtain an inverse for
+`AdicCompletion.sum` from `AdicCompletion.pi`. -/
+def sumInv : AdicCompletion I (⨁ j, M j) →ₗ[AdicCompletion I R] (⨁ j, (AdicCompletion I (M j))) :=
+  let f := map I (linearEquivFunOnFintype R ι M)
+  let g := linearEquivFunOnFintype (AdicCompletion I R) ι (fun j ↦ AdicCompletion I (M j))
+  g.symm.toLinearMap ∘ₗ pi I M ∘ₗ f
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:267]:
```suggestion
  letI f := map I (linearEquivFunOnFintype R ι M)
  letI g := linearEquivFunOnFintype (AdicCompletion I R) ι (fun j ↦ AdicCompletion I (M j))
  g.symm.toLinearMap ∘ₗ pi I M ∘ₗ f
```
This makes `let` disappear in the constructed term.

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 7]
```diff
@@ -0,0 +1,352 @@
...
+/-- `R`-linear version of `reduceModIdeal`. -/
+private def reduceModIdealAux (f : M →ₗ[R] N) :
+    M ⧸ (I • ⊤ : Submodule R M) →ₗ[R] N ⧸ (I • ⊤ : Submodule R N) :=
+  Submodule.mapQ (I • ⊤ : Submodule R M) (I • ⊤ : Submodule R N) f
+    (fun x hx ↦ by
+      refine Submodule.smul_induction_on hx (fun r hr x _ ↦ ?_) (fun x y hx hy ↦ ?_)
+      · simp [Submodule.smul_mem_smul hr Submodule.mem_top]
+      · simp [Submodule.add_mem _ hx hy])
+
+@[simp]
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:44]:
```suggestion
@[local simp]
```

Comment (erdOne) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean:44]: Did you really use this somewhere? I doubt so.

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 8]
```diff
@@ -0,0 +1,352 @@
...
+end AdicCauchySequence
+
+/-- `R`-linear version of `adicCompletion`. -/
+private def adicCompletionAux (f : M →ₗ[R] N) :
+    AdicCompletion I M →ₗ[R] AdicCompletion I N :=
+  AdicCompletion.lift I (fun n ↦ reduceModIdeal (I ^ n) f ∘ₗ AdicCompletion.eval I M n)
+    (fun {m n} hmn ↦ by rw [← comp_assoc, AdicCompletion.transitionMap_comp_reduceModIdeal,
+        comp_assoc, transitionMap_comp_eval])
+
+@[simp]
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:116]:
```suggestion
@[local simp]
```
I don't think you used this anywhere as well?

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 9]
```diff
@@ -0,0 +1,352 @@
...
+
+open DirectSum
+
+variable [Fintype ι]
+
+/-- If `ι` is finite, `pi` is a linear equiv. -/
+def piEquivOfFintype :
+    AdicCompletion I (∀ j, M j) ≃ₗ[AdicCompletion I R] ∀ j, AdicCompletion I (M j) :=
+  let f := (congr I (linearEquivFunOnFintype R ι M)).symm
+  let g := (linearEquivFunOnFintype (AdicCompletion I R) ι (fun j ↦ AdicCompletion I (M j)))
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:330]:
```suggestion
  letI f := (congr I (linearEquivFunOnFintype R ι M)).symm
  letI g := (linearEquivFunOnFintype (AdicCompletion I R) ι (fun j ↦ AdicCompletion I (M j)))
```

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean (hunk 7 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean]: No, they only appear in `simp only` calls. I changed it to `local simp` as suggested, should I remove it completely instead?

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 10]
```diff
@@ -0,0 +1,352 @@
...
+@[ext]
+theorem map_ext {f g : AdicCompletion I M → N}
+    (h : ∀ (a : AdicCauchySequence I M),
+      f (AdicCompletion.mk I M a) = g (AdicCompletion.mk I M a)) :
+    f = g := by
+  ext x
+  apply induction_on I M x (fun a ↦ h a)
+
+/-- Equality of linear maps out of an adic completion can be checked on Cauchy sequences. -/
+theorem map_ext' {f g : AdicCompletion I M →ₗ[R] N}
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:146]: This should be the `@[ext]` lemma instead. See [partially-applied ext lemmas].

**Review by erdOne — APPROVED** [review]
Sorry forgot about this.
LGTM modulo the comment

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean (hunk 10 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean:146]: Instead of `map_ext`?

Comment (erdOne) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean:146]: Yes.

Comment (erdOne) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean:146]: Okay maybe it doesn't matter.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by chrisflav** [comment]
Thanks for the review @erdOne!

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 11]
```diff
@@ -150,6 +150,12 @@ theorem sum_support_of [∀ (i : ι) (x : β i), Decidable (x ≠ 0)] (x : ⨁ i
   DFinsupp.sum_single
 #align direct_sum.sum_support_of DirectSum.sum_support_of
 
+theorem sum_univ_of [Fintype ι] (x : ⨁ i, β i) :
+    ∑ i ∈ Finset.univ, of β i (x i) = x := by
+  change (∑ i ∈ Finset.univ, DFinsupp.single i (x i)) = x
```
Comment (riccardobrasca) [inline Mathlib/Algebra/DirectSum/Basic.lean:155]: Do we really need this `change`? If so we are maybe missing a lemma.

File: Mathlib/RingTheory/AdicCompletion/Algebra.lean [hunk 12]
```diff
@@ -156,6 +156,12 @@ theorem mk_smul_mk (r : R) (x : M) :
       = r • Submodule.Quotient.mk (p := (I • ⊤ : Submodule R M)) x :=
   rfl
 
+theorem val_smul_eq_evalₐ_smul (n : ℕ) (r : AdicCompletion I R)
+    (x : M ⧸ (I ^ n • ⊤ : Submodule R M)) : r.val n • x = evalₐ I n r • x := by
+  simp [evalₐ]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/AdicCompletion/Algebra.lean:161]: Nonterminal `simp`.

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 13]
```diff
@@ -0,0 +1,352 @@
...
+
+/-!
+# Functoriality of adic completions
+
+In this file we establish functorial properties of the adic completion.
+
+## Main definitions
+
+- `LinearMap.adicCauchy I f`: the by `f` induced linear map on `I`-adic cauchy sequences
+- `LinearMap.adicCompletion I f`: the by `f` induced linear map on `I`-adic completions
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:18]:
```suggestion
- `LinearMap.adicCauchy I f`: the linear map on `I`-adic cauchy sequences induced by `f`
- `LinearMap.adicCompletion I f`: the by `f` induced linear map on `I`-adic completions
```
Is this what you mean?

File: Mathlib/Algebra/DirectSum/Basic.lean (hunk 11 above)
Comment (chrisflav) [reply Mathlib/Algebra/DirectSum/Basic.lean:155]: I tried to add various rewrite lemmas, even `lemma foo [Fintype ι] (x : ⨁ i, β i) : /∑ i ∈ Finset.univ, of β i (x i)) = ∑ i ∈ Finset.univ, DFinsupp.single i (x i)`, but it I can't get it to work without the `change`.

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean (hunk 13 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean]: Yes

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean (hunk 10 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean]: I swapped the `@[ext]`.

File: Mathlib/RingTheory/AdicCompletion/Algebra.lean [hunk 14]
```diff
@@ -156,6 +156,12 @@ theorem mk_smul_mk (r : R) (x : M) :
       = r • Submodule.Quotient.mk (p := (I • ⊤ : Submodule R M)) x :=
   rfl
 
+theorem val_smul_eq_evalₐ_smul (n : ℕ) (r : AdicCompletion I R)
+    (x : M ⧸ (I ^ n • ⊤ : Submodule R M)) : r.val n • x = evalₐ I n r • x := by
+  dsimp [evalₐ]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/AdicCompletion/Algebra.lean:161]: Can you use `dsimp only`? Thanks!

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

**Comment by chrisflav** [comment]
Thanks for the reviews!

bors r+
